US06399601B1
3-Bromo-4H-thieno[3,2-b]pyrrole-5-carboxylic Acid
4-Bromo-thiophene-2-carbaldehyde was annulated according to Procedure H (aldehyde and azido-acetic acid ethyl ester added as ethanol solution (1.2 M of ester) such that reaction temperature maintained at 0° C.; reaction mixture allowed to warm to 10° C., stirred for 1 h, poured into cold saturated aqueous NH4Cl; after ether extractions, combined acrylate organic phases washed with water until aqueous phase was neutral; acrylate not purified).

reactant | 4-Bromo-thiophene-2-carbaldehyde | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | azido-acetic acid ethyl ester | C(C)OC(CN=[N+]=[N-])=O | C4H7N3O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ethanol | 1.2 M | C(C)O | C2H6O
product | 3-Bromo-4H-thieno[3,2-b]pyrrole-5-carboxylic Acid | BrC1=CSC2=C1NC(=C2)C(=O)O | C7H4BrNO2S
